US07166635B2
6-HYDROXY-1-PHENYL-1H-INDOLE-2,3-DIONE:
A mixture of 6-methoxy-1-phenyl-1H-indole-2,3-dione (50 mg, 0.20 mmol) and BBr3 (418 mg, 1.67 mmol) in CH2Cl2 (6 mL) was stirred at 0° C. for 1 hour. The crude product was purified by preparative TLC [Eluent: EtOAc/hexane (1:1)], giving the desired product (13 mg, 28%).

reactant | 6-methoxy-1-phenyl-1H-indole-2,3-dione | 0.20 mmol, 50 mg | COC1=CC=C2C(C(N(C2=C1)C1=CC=CC=C1)=O)=O | C15H11NO3
reactant | BBr3 | 1.67 mmol, 418 mg | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 6-HYDROXY-1-PHENYL-1H-INDOLE-2,3-DIONE | 13 mg, 28% | OC1=CC=C2C(C(N(C2=C1)C1=CC=CC=C1)=O)=O | C14H9NO3
